2144-08-02 10:34:00 Physician Attending Progress Note
Chief Complaint: AF with RVR, febrile neutropenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major events overnight.
 EKG - At [**2144-8-1**] 10:44 AM
 CALLED OUT
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-8-2**] 04:00 AM
   Metronidazole - [**2144-8-2**] 08:00 AM
   Vancomycin - [**2144-8-2**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   See resident note for full list.  Dexamethasone, Cefepime, Vancomycin,
   Flagyl, G-CSF, Amiodarone 400mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea
   Flowsheet Data as of  [**2144-8-2**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 73 (63 - 86) bpm
   BP: 121/61(76) {102/53(68) - 130/106(112)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  4,242 mL
                                                                  2,213 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,595 mL
                                                                  1,857 mL
   Blood products:
                                                                  1,528 mL
                                                                    236 mL
   Total out:
                                                                  1,635 mL
                                                                    335 mL
   Urine:
                                                                  1,635 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,607 mL
                                                                  1,878 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Pale
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : , No(t) Diminished: at bases B/L)
   Abdominal: Soft, Bowel sounds present, Distended, No(t) Tender: ,
   Increased abd distention
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   stimuli, Movement: Moves all 4
s, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   112 K/uL
   116 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.6 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   26.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2144-7-26**]  10:02 AM
                             [**2144-7-26**]  12:37 PM
                             [**2144-7-26**]  03:23 PM
                             [**2144-7-26**]  06:18 PM
                             [**2144-7-27**]  03:37 AM
                             [**2144-7-31**]  10:01 PM
                             [**2144-8-1**]  04:51 AM
                             [**2144-8-1**]  05:06 PM
                             [**2144-8-2**]  12:50 AM
                             [**2144-8-2**]  05:40 AM
   WBC
   5.5
   6.9
   0.1
   0.2
   0.3
   Hct
   27.4
   25.8
   22.4
   24.5
   26.4
   Plt
   237
   256
   62
   63
   95
   112
   Cr
   0.3
   0.2
   0.2
   0.2
   0.2
   TCO2
   41
   40
   40
   Glucose
   162
   158
   156
   134
   116
   Other labs: PT / PTT / INR:14.4/25.5/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.4 mg/dL
   Imaging: KUB:  Increasing colonic distention.
   Microbiology: BCx:  GNR of 2 different morphologies
   UCx: E coli.
   Assessment and Plan
   59 yo F with MR, HD, and [**Hospital 3282**] transferred to the [**Hospital Unit Name 44**] with febrile
   neutropenia and AF with RVR.
   1.) AF with RVR: Has remained in SR for 24 hours, currently on po amio
   and lopressor
   -Continue PO amio load and monitor QT.  Goal will be for a 7g load.
   -Check echo to assess pericardial effusion.
   -Holding on anticoagulation given bloody nature of her pericardial
   effusion
    2.) Febrile Neutropenia:  No clear localizing signs or symptoms.
   Likely source is gut translocation vs UTI.  Abdominal exam not
   concerning at present but is very distended.  BCx with 1/4 GNR of 2
   different morphologies suggestive of possible gut translocation.
   -Follow up culture sensitivites.  Awaiting C diff
   -D/C vanc, continue cefepime/flagyl.
   -Serial abdominal exams, though may be unrevealing given steroid
   regimen.  Low threshold for abd ct if change in hemodynamic perameters
   or clinical status given cx data.
   -Will ask surgery to evaluate abdomen given risk of perforation.
   -Will keep PICC line in place for now
    3.) Pericardial effusion:
   -Echo as above
   -Platelet goal >75k per oncology, 112k today.
    4.) Ileus: KUB with increaed colonic dilation and abd exam more
   distended
   -Will monitor with serial abd exams.
   -Surgical eval (ct abd)
   -Will discuss with surgery and BMT regarding if rectal tube is
   reasonable, as already on broad abx.
   -Full liquid diet, ADAT
    5.) HD:  Further chemo plans per oncology
   -Currently on Dexamethasone Daily until [**8-4**].
   -Will discuss with oncology service regarding any need for prophylactic
   abx regimen
   ICU Care
   Nutrition:
   Comments: Full liquids with pudding
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : continue in ICU given change in abd exam/imaging
   Total time spent: 30 minutes

2144-08-03 06:48:00 Physician Resident Progress Note
Chief Complaint:
   Rapid afib with RVR,
   hypoxia
   24 Hour Events:
   called out to BMT but given Abd distention she was kept in the ICU
   S/p CT abdomen / pelvis: when returned in a fib with RVR to 140.  Given
   lopressor 5mg IV x 2 with some effect (to 120s) and her PO lopressor
   slowly inc.  Attempted 10 mg dilt IV this AM with patient, but patient
   flipped back into afib.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-8-2**] 09:00 AM
   Metronidazole - [**2144-8-3**] 12:00 AM
   Cefipime - [**2144-8-3**] 04:10 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2144-8-2**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP/SOB, N/V/abdominal pain.
   Flowsheet Data as of  [**2144-8-3**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.6
   HR: 132 (64 - 141) bpm
   BP: 120/82(89) {108/49(64) - 136/85(91)} mmHg
   RR: 25 (14 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  5,042 mL
                                                                  1,111 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  4,686 mL
                                                                  1,111 mL
   Blood products:
                                                                    236 mL
   Total out:
                                                                  1,075 mL
                                                                    105 mL
   Urine:
                                                                  1,075 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,967 mL
                                                                  1,006 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   HEENT: PERRL, NCAT, MM moist.  Neck supple.
   CV: Nl S1+S2, no m/r/g
   Respiratory / Chest: CTAB
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   9.8 g/dL
   127 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.5 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   30.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2144-7-26**]  12:37 PM
                             [**2144-7-26**]  03:23 PM
                             [**2144-7-26**]  06:18 PM
                             [**2144-7-27**]  03:37 AM
                             [**2144-7-31**]  10:01 PM
                             [**2144-8-1**]  04:51 AM
                             [**2144-8-1**]  05:06 PM
                             [**2144-8-2**]  12:50 AM
                             [**2144-8-2**]  05:40 AM
                             [**2144-8-3**]  04:19 AM
   WBC
   5.5
   6.9
   0.1
   0.2
   0.3
   3.8
   Hct
   27.4
   25.8
   22.4
   24.5
   26.4
   30.7
   Plt
   237
   256
   62
   63
   95
   112
   190
   Cr
   0.3
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   40
   40
   Glucose
   162
   158
   156
   134
   116
   127
   Other labs: PT / PTT / INR:14.4/25.5/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   This is a 59F with mental retardation w/ recent dx of nodular
   sclerosing hodgkins lymphoma s/p modified EACOP, ileus,  now with
   febrile neutropenia and afib with RVR  in setting of GNR bacteremia.
   # Atrial fibrillation with RVR:
   -paroxysmal
   - IV amiodorone load.
   - Check EKG
   -RVR possibly related to GNR bacteremia,
    -currently on 50mg po qid lopressor
 consider uptitrating.
   - Check ABG
   # Febrile neutropenia: Now s/p cytoxan, doxorubin, etoposide,
   dexamethasone and procarbazine (last [**7-29**])
   -ANC greater than 1000
   -check w/ BMT duration of GCSF
   -f/u CXR and repeat cultures
   -2 GNR in blood, f/u sensitivities of both, call micro lab to see if
   sensitivities on culture of GNR are for both GNRs
   -continue cefepime and flagyl
   -continue dex until [**8-7**]
   -repeat blood cultures today
   -if diarrhea send c diff
   - monitor PICC line
   # Ileus/abdominal distention:
   -improved with rectal tube
   -f/u final CT read
   -daily KUB and serial abdominal exams to evaluate for worsening
   distention and for perforation
   -per surgery CT scan shows mostly dilated stomach, may benefit from NG
   tube but would not likely change her colonic perforation risk, so will
   hold off on this as patient will unlikely tolerate this.
   -Replete lytes aggressively
   -f/u surgery recs if any
   # Hemopericardium: Moderate pericardial effusion per ECHO on [**7-17**]
   without evidence of tamponade. Hemodynamically stable
   - ECHO today
   -contraindication to anticoagulation
   # Hypoxia: related to tumor compression of pulmonary arteries and L
   main bronchus.
   -also SVC encasement
   -monitor for improvement given treatment of Hodgkin's lymphoma
   -steroids x 14 days
   -wean O2 as tolerated
   # Lymphoma: NSHL as per pathology from supraclavicular LN biopsy. Stage
   2b at least per Dr. [**First Name (STitle) 1422**].
   -s/p cytoxan, etoposide, doxarubacin and dex note.
   - d/c allopurinol
   -will need ppx for PCP / HSV / VZV per BMT team
   -daily ANC
   # Urine culture: [**7-31**] grew out yeast.  Plan to recheck when Foley was
   placed and change out if necessary.
   # Anemia: Chronic, iron deficiency anemia. Now s/p chemo Will continue
   to monitor.
   - Maintain Hct >25, plt >75 given hemopericardium
   # FEN: monitor lytes. neutropenic, liquid diet for now
   # Proph: bowel regimen, PPI, pneumoboots
   # CODE: FULL code, reversed from DNR/DNI in conjunction with Dr. [**First Name (STitle) 1422**]
   [**Name (STitle) 3288**].
   # ACCESS: peripheral; PICC
   # DISPO: Pending above
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2144-08-03 08:58:00 Physician Attending Progress Note
Chief Complaint: 59 year woman with MR,  Hodgkin's s/p 1 cycle of EA
   COP, procarbazine, dex
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   A-fib on Amiodarone continuing tachy
   24 Hour Events:
   Chronic Ileus in setting of neutropenia, Febrile with 2 types gram neg
   rods in blood. ? BE, ZECHO pending.
   Persistently tachy last PM, incr beta blocker, increased dilt.
   Normotensive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-8-2**] 09:00 AM
   Metronidazole - [**2144-8-3**] 12:00 AM
   Cefipime - [**2144-8-3**] 04:10 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2144-8-2**] 11:03 PM
   Diltiazem - [**2144-8-3**] 07:00 AM
   Other medications:
   pantoprzole colace, RISS, simethicone, nystatin, filgrastin, amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-3**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.6
   HR: 113 (66 - 141) bpm
   BP: 115/66(74) {108/49(64) - 136/85(91)} mmHg
   RR: 25 (14 - 32) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  5,042 mL
                                                                  1,781 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  4,686 mL
                                                                  1,781 mL
   Blood products:
                                                                    236 mL
   Total out:
                                                                  1,075 mL
                                                                    125 mL
   Urine:
                                                                  1,075 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,967 mL
                                                                  1,656 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Distended, Tender:
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   190 K/uL
   127 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.5 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   30.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2144-7-26**]  12:37 PM
                             [**2144-7-26**]  03:23 PM
                             [**2144-7-26**]  06:18 PM
                             [**2144-7-27**]  03:37 AM
                             [**2144-7-31**]  10:01 PM
                             [**2144-8-1**]  04:51 AM
                             [**2144-8-1**]  05:06 PM
                             [**2144-8-2**]  12:50 AM
                             [**2144-8-2**]  05:40 AM
                             [**2144-8-3**]  04:19 AM
   WBC
   5.5
   6.9
   0.1
   0.2
   0.3
   3.8
   Hct
   27.4
   25.8
   22.4
   24.5
   26.4
   30.7
   Plt
   237
   256
   62
   63
   95
   112
   190
   Cr
   0.3
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   40
   40
   Glucose
   162
   158
   156
   134
   116
   127
   Other labs: PT / PTT / INR:14.4/25.5/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: Distended bowel
   Microbiology: BC's pos for 2 gm neg rods
   e coli in urine
   Assessment and Plan
   59 yo F with MR, Hodgkin's Disease, and [**Hospital 3282**] transferred to the [**Hospital Unit Name 44**]
   with febrile neutropenia and AF with RVR.
   1.) AF with RVR: in AF with RVR, currently on po amio and lopressor
   -Continue PO amio load and monitor QT.  Goal will be for a 7g load.
   -Consider adding digoxin
   -Holding on anticoagulation given bloody nature of her pericardial
   effusion
    2.) Febrile Neutropenia:  No clear localizing signs or symptoms.
   Likely source is gut translocation vs UTI.  Abdominal exam not
   concerning at present but is very distended.  BCx with 1/4 GNR of 2
   different morphologies suggestive of possible gut translocation.
   -Follow up culture sensitivites.  Awaiting C diff
   -vanc d/c'd yesterday, continue cefepime/flagyl.
   -Serial abdominal exams, though may be unrevealing given steroid
   regimen.  Low threshold for abd ct if change in hemodynamic perameters
   or clinical status given cx data.
   -KUB this AM
   -Will keep PICC line in place for now
    3.) Pericardial effusion:
   -Echo as above
   -Platelet goal >75k per oncology, 190k today.
    4.) Ileus: KUB with increaed colonic dilation and abd exam more
   distended
   -Will monitor with serial abd exams, daily KUB.
   -Full liquid diet, ADAT
    5.) HD:  Further chemo plans per oncology
   -Currently on Dexamethasone Daily until [**8-4**].
   -Will discuss with oncology service regarding any need for prophylactic
   abx regimen
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2144-08-04 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   # Urine Output was down yesterday, repsonded to fluid bolus.
   # Now normotensive off of vasoactive agents.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-8-2**] 09:00 AM
   Metronidazole - [**2144-8-4**] 12:23 AM
   Cefipime - [**2144-8-4**] 03:54 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2144-8-4**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Patient unable to respond appropriately to questions.
   Flowsheet Data as of  [**2144-8-4**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96
   HR: 87 (74 - 149) bpm
   BP: 127/63(77) {54/45(63) - 128/94(99)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,488 mL
                                                                    579 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  3,188 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                  1,549 mL
   Urine:
                                                                    562 mL
                                                                  1,549 mL
   NG:
   Stool:
                                                                     20 mL
   Drains:
   Balance:
                                                                  2,906 mL
                                                                   -970 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.41/45/58/27/2
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Patient was somnolent during exam.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdominal: No(t) Soft, Bowel sounds present,  Greatly distended,
   Tender: Diffusely. Typanitic to percussion.
   Extremities: Right: 2+ pitting edema, Left: 2+ pitting edema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   258 K/uL
   10.0 g/dL
   73 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.8 mEq/L
   7 mg/dL
   108 mEq/L
   139 mEq/L
   31.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2144-7-31**]  10:01 PM
                             [**2144-8-1**]  04:51 AM
                             [**2144-8-1**]  05:06 PM
                             [**2144-8-2**]  12:50 AM
                             [**2144-8-2**]  05:40 AM
                             [**2144-8-3**]  04:19 AM
                             [**2144-8-3**]  09:07 AM
                             [**2144-8-3**]  03:55 PM
                             [**2144-8-3**]  07:19 PM
                             [**2144-8-4**]  04:00 AM
   WBC
   0.1
   0.2
   0.3
   3.8
   6.0
   5.7
   10.7
   Hct
   22.4
   24.5
   26.4
   30.7
   33.6
   31.9
   31.7
   Plt
   62
   63
   95
   112
   190
   259
   242
   258
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.3
   TCO2
   30
   Glucose
   156
   134
   116
   127
   116
   73
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   Differential-Neuts:84.0 %, Band:5.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Microbiology: [**2144-8-3**] - C. Diff negative
   Assessment and Plan
   This is a 59F with mental retardation w/ recent dx of nodular
   sclerosing hodgkins lymphoma s/p modified EACOP, ileus,  now with
   febrile neutropenia and afib with RVR  in setting of GNR bacteremia.
   # Atrial fibrillation with RVR (paroxysmal): IV amiodarone load was
   successful yesterday in keeping HR in the mid 80s as patient was in
   sinus rhythm overnight. During rounds, the patient displayed a HR in
   the 150s to 180s.
   - Restart PO amiodarone load at 400mg [**Hospital1 **].
   - Give Digoxin IV with 0.5 mg intially followed by 0.25 mg dose at 6
   and 12 hours following initial dose.
   - Check EKG with new tachycardia run.
   # Febrile neutropenia (s/p cytoxan, doxorubin, etoposide, dexamethasone
   and procarbazine (last [**7-29**])): Patient has been afebrile in last 24
   hours and no longer has neutropenia.
   - Check w/ BMT duration of GCSF
   - f/u CXR and repeat cultures
   -GNR in blood are susceptible to current antibiotic regimen. Continue
   Cefipime, Metronidazole, and Vancomycin
   - monitor PICC line
   # Ileus/abdominal distention: Worse today. Unlikely due to c. diff
   given negative assay; however, should repeat c. diff toxin assay.
   - Rectal tube is not draining appropriately due to stool thickness and
   has been removed. Per surgery recs, rectal tube should be replaced and
   should be flushed with saline or gastrografin to prevent plugging with
   thick stool.
   -Daily KUB and serial abdominal exams to evaluate for worsening
   distention and for perforation
   -Replete lytes aggressively
   # Hemopericardium: ECHO shows residual, but improved hemopericardium.
   Likely not contributing significantly to current overall status.
   # Hypoxia: related to tumor compression of pulmonary arteries and L
   main bronchus.
   -also SVC encasement
   -monitor for improvement given treatment of Hodgkin's lymphoma
   -steroids x 14 days (last dose on [**8-7**])
   -wean O2 as tolerated
   # Lymphoma: NSHL as per pathology from supraclavicular LN biopsy. Stage
   2b at least per Dr. [**First Name (STitle) 1422**].
   -s/p cytoxan, etoposide, doxarubacin and dex note.
   - d/c allopurinol
   -will need ppx for PCP / HSV / VZV per BMT team
   -daily ANC
   # Urine culture: [**7-31**] grew out yeast.  Plan to recheck when Foley was
   placed and change out if necessary.
   # Anemia: Chronic, iron deficiency anemia. Now s/p chemo Will continue
   to monitor.
   - Maintain Hct >25, plt >75 given hemopericardium
   # FEN: monitor lytes. neutropenic, liquid diet for now
   # Proph: bowel regimen, PPI, pneumoboots
   # CODE: FULL code.
   # ACCESS: peripheral; PICC
   # DISPO: Pending above
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition: NPO for now due to somnolence. Advance back to liquids as
   tolerated.
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Pneumoboots.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Further discussion with family is warranted
   given recent confusion regarding code status.
   Code status: Full code
   Disposition:

2144-08-04 10:45:00 Physician Attending Progress Note
Chief Complaint: 59 yr woman with Hodgkin's, mental retardation
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afib RVR
   Sepsis
   24 Hour Events:
   Stayed in sinus overnight then went back into afib at 10:00AM today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-8-2**] 09:00 AM
   Cefipime - [**2144-8-4**] 03:54 AM
   Metronidazole - [**2144-8-4**] 08:18 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2144-8-4**] 04:13 AM
   Diltiazem - [**2144-8-4**] 10:25 AM
   Other medications:
   pantoprazole, colace, RISS, dexamethasone, simethicone, metoprolol,
   diltiazem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-4**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 190 (74 - 190) bpm
   BP: 129/87(98) {101/49(63) - 129/94(99)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  3,488 mL
                                                                    785 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  3,188 mL
                                                                    785 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                  1,849 mL
   Urine:
                                                                    562 mL
                                                                  1,849 mL
   NG:
   Stool:
                                                                     20 mL
   Drains:
   Balance:
                                                                  2,906 mL
                                                                 -1,064 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: 7.44/44/89.[**Numeric Identifier 128**]/27/4
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: , Obese, Tympanitic
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Noxious stimuli, Movement: Non
   -purposeful, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   258 K/uL
   73 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.8 mEq/L
   7 mg/dL
   108 mEq/L
   139 mEq/L
   31.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2144-8-1**]  04:51 AM
                             [**2144-8-1**]  05:06 PM
                             [**2144-8-2**]  12:50 AM
                             [**2144-8-2**]  05:40 AM
                             [**2144-8-3**]  04:19 AM
                             [**2144-8-3**]  09:07 AM
                             [**2144-8-3**]  03:55 PM
                             [**2144-8-3**]  07:19 PM
                             [**2144-8-4**]  04:00 AM
                             [**2144-8-4**]  08:39 AM
   WBC
   0.1
   0.2
   0.3
   3.8
   6.0
   5.7
   10.7
   Hct
   22.4
   24.5
   26.4
   30.7
   33.6
   31.9
   31.7
   Plt
   62
   63
   95
   112
   190
   259
   242
   258
   Cr
   0.2
   0.2
   0.2
   0.2
   0.3
   TCO2
   30
   31
   Glucose
   134
   116
   127
   116
   73
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   Differential-Neuts:84.0 %, Band:5.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Microbiology: c diff negative
   Assessment and Plan
   59 yo F with MR, Hodgkin's Disease, and [**Hospital 3282**] transferred to the [**Hospital Unit Name 44**]
   with febrile neutropenia and AF with RVR.
   1.) AF with RVR: in AF with RVR, currently on po amio and lopressor
    -Continue PO amio load and monitor QT.  Goal will be for a 7g load.
   - Adding digoxin for refractory afib
   -Holding on anticoagulation given bloody nature of her pericardial
   effusion
   2.) ID -  Likely source is gut translocation vs UTI.  Abdominal exam
   not concerning at present but is very distended.  BCx with 1/4 GNR
   ecoli, enterobacter covered by Cefopime
    C diff - neg
    -continue cefepime/flagyl
    -Serial abdominal exams, though may be unrevealing given steroid
   regimen.  Low threshold for abd ct if change in hemodynamic perameters
   or clinical status given cx data.
    -KUB this AM
   -Will keep PICC line in place for now
    3.) Pericardial effusion:
   -Echo as above
   -Platelet goal >75k per oncology, 190k today.
    4.) Ileus: KUB with increaed colonic dilation and abd exam more
   distended
    -Will monitor with serial abd exams, daily KUB.
   -Full liquid diet, ADAT
      5.) HD:  Further chemo plans per oncology
   -Dexamethasone d/c'd today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2144-08-05 07:42:00 Physician Resident Progress Note
Chief Complaint: Afib with RVR and neutropenic fever
   24 Hour Events:
   # EKG - At [**2144-8-4**] 08:00 PM
   # Patient's code status is now DNR, but she may be intubated for
   procedures as per family.
   # Rectal tube has been replaced with significant liquid output
   overnight.
   # The third scheduled IV digoxin dose was held to to cardiology
   concerns that this would be overly aggressive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-8-2**] 09:00 AM
   Metronidazole - [**2144-8-5**] 12:37 AM
   Cefipime - [**2144-8-5**] 04:11 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2144-8-4**] 10:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2144-8-5**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 120 (79 - 190) bpm
   BP: 139/62(76) {86/34(44) - 157/90(101)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,371 mL
                                                                    225 mL
   PO:
             TF:
   IVF:
                                                                  1,371 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  3,119 mL
                                                                    285 mL
   Urine:
                                                                  3,119 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,748 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 89%
   ABG: 7.44/44/89.[**Numeric Identifier 128**]/31/4
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: Well nourished, Patient is awake upon examination.
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Radial pulses correlate with electrical heart tracing,
   but are sporadically weak.
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, Tender: Patient winces with
   deep palpation, Abdominal exam is improved from yesterday's exam with
   less distention and is softer upon palpation. Rectal tube in place.
   Extremities: Right: 3+ edema, Left: 3+ edema, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Patient is less
   somnolent than during yesterday's exam and can follow simple commands,
   which she could not do yesterday.
   Labs / Radiology
   332 K/uL
   10.1 g/dL
   108 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.4 mEq/L
   5 mg/dL
   109 mEq/L
   142 mEq/L
   32.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2144-8-2**]  12:50 AM
                             [**2144-8-2**]  05:40 AM
                             [**2144-8-3**]  04:19 AM
                             [**2144-8-3**]  09:07 AM
                             [**2144-8-3**]  03:55 PM
                             [**2144-8-3**]  07:19 PM
                             [**2144-8-4**]  04:00 AM
                             [**2144-8-4**]  08:39 AM
                             [**2144-8-4**]  05:16 PM
                             [**2144-8-5**]  05:12 AM
   WBC
   0.3
   3.8
   6.0
   5.7
   10.7
   13.9
   14.4
   Hct
   26.4
   30.7
   33.6
   31.9
   31.7
   32.6
   32.4
   Plt
   95
   112
   190
   259
   [**Telephone/Fax (3) 3351**]
   332
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   0.2
   TCO2
   30
   31
   Glucose
   116
   127
   116
   73
   121
   108
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   Differential-Neuts:84.0 %, Band:5.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: [**2144-8-4**] - KUB: Official read pending
   Microbiology: [**2144-8-3**] - c. diff toxin: NEGATIVE
   [**2144-7-31**] - [**2144-8-3**]: Multiple blood CX: pending
   [**2144-7-31**] - Blood CX: 1 bottle showing Gram NEG rods
   Assessment and Plan
   This is a 59F with mental retardation w/ recent dx of nodular
   sclerosing hodgkins lymphoma s/p modified EACOP, ileus,  now with
   febrile neutropenia and afib with RVR  in setting of GNR bacteremia.
   # Atrial fibrillation with RVR (paroxysmal): IV amiodarone load was
   successful yesterday in keeping HR in the mid 80s as patient was in
   sinus rhythm overnight. During rounds, the patient displayed a HR in
   the 150s to 180s.
   - Reinitiation IV Amiodarone loading at 0.5 mg/min for a total infusion
   of 1 g. (Approx 33 hours)
   - Hold Digoxin now per cardiology. F/U on digoxin levels reveals level
   of 1.0, which is within therapeutic range.
   - Check EKG with new tachycardia run.
   # Febrile neutropenia (s/p cytoxan, doxorubin, etoposide, dexamethasone
   and procarbazine (last [**7-29**])): Patient has been afebrile in last 24
   hours and no longer has neutropenia.
   - f/u CXR and repeat cultures
   -GNR in blood are susceptible to current antibiotic regimen. Continue
   Cefipime, Metronidazole, and Vancomycin.
   - monitor PICC line
   # Ileus/abdominal distention: Much better this AM than yesterday AM.
   Should continue bowel decompression by way of rectal tube.
   - Rectal tube has been reinserted. Will need to keep tube in and flush
   as needed with saline if stool becomes too thick to pass through tube..
   -Daily KUB and serial abdominal exams to evaluate for worsening
   distention and for perforation.
   -Replete lytes aggressively per sliding scale orders.
   # Hemopericardium: ECHO shows residual, but improved hemopericardium.
   Likely not contributing significantly to current overall status.
   # Hypoxia: Existed pre-admission and is likely related to tumor
   compression of pulmonary arteries and L main bronchus.
   - Monitor for improvement given treatment of Hodgkin's lymphoma
   - Dexamethasone dosing has been completed.
   - Wean O2 as tolerated.
   # Lymphoma: NSHL as per pathology from supraclavicular LN biopsy. Stage
   2b at least per Dr. [**First Name (STitle) 1422**].
   -s/p cytoxan, etoposide, doxarubacin and dex note.
   -will need ppx for PCP / HSV / VZV per BMT team
   -daily ANC
   # Urine culture: [**7-31**] grew out yeast.
   # Anemia: Chronic, iron deficiency anemia. Now s/p chemo. Will continue
   to monitor.
   - Maintain Hct >25, plt >75 given hemopericardium
   # FEN: Liquid diet as neurologic status tolerates.
   # Proph: Bowel regimen, PPI, pneumoboots
   # CODE: DNR, may be intubated for procedures per family discussion.
   # ACCESS: peripheral; PICC
   # DISPO: ICU while abdominal process resolves.
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition: Liquid diet.
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, [**Month (only) 60**] intubate for procedures
   Disposition: ICU while abdominal process resolves

2144-08-05 10:02:00 Physician Attending Progress Note
Chief Complaint: Hodgkin's Disease with afib/RVR worsening ileus,
   febrile neutropenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   DNR obtained from family after long discussion
   24 Hour Events:
 EKG - At [**2144-8-4**] 08:00 PM
   Continuing Amio Load, digoxin 0.75mg also given. Afib with controlled
   rate last PM. Stomach discomfort persists
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-8-5**] 04:11 AM
   Metronidazole - [**2144-8-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2144-8-4**] 10:25 AM
   Other medications:
   nystatin, simethicone, colace, pantoprazole, KCL. Mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-5**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.7
   HR: 134 (80 - 190) bpm
   BP: 117/78(87) {86/34(44) - 157/90(101)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,371 mL
                                                                    474 mL
   PO:
             40 mL
   TF:
   IVF:
                                                                  1,371 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  3,119 mL
                                                                    365 mL
   Urine:
                                                                  3,119 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,748 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Distended, Decreased Distention
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): 0, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   332 K/uL
   108 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.4 mEq/L
   5 mg/dL
   109 mEq/L
   142 mEq/L
   32.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2144-8-2**]  12:50 AM
                             [**2144-8-2**]  05:40 AM
                             [**2144-8-3**]  04:19 AM
                             [**2144-8-3**]  09:07 AM
                             [**2144-8-3**]  03:55 PM
                             [**2144-8-3**]  07:19 PM
                             [**2144-8-4**]  04:00 AM
                             [**2144-8-4**]  08:39 AM
                             [**2144-8-4**]  05:16 PM
                             [**2144-8-5**]  05:12 AM
   WBC
   0.3
   3.8
   6.0
   5.7
   10.7
   13.9
   14.4
   Hct
   26.4
   30.7
   33.6
   31.9
   31.7
   32.6
   32.4
   Plt
   95
   112
   190
   259
   [**Telephone/Fax (3) 3351**]
   332
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   0.2
   TCO2
   30
   31
   Glucose
   116
   127
   116
   73
   121
   108
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   59 yo F with MR, Hodgkin's Disease, and [**Hospital 3282**] transferred to the [**Hospital Unit Name 44**]
   with febrile neutropenia and AF with RVR.
   1.) AF with RVR: in AF with controlled rate currently on IV amio and
   digoxin
    -Holding on anticoagulation given bloody nature of her pericardial
   effusion
   2.) ID -  Likely source is gut translocation vs UTI.  Abdominal exam
   concerning at present but is very distended.  BCx with 1/4 GNR ecoli,
   enterobacter covered by Cefopime
     -continue cefepime/flagyl
    -Serial abdominal exams, though may be unrevealing given steroid
   regimen.  Low threshold for abd ct if change in hemodynamic perameters
   or clinical status given cx data.
   -Will keep PICC line in place for now
    3.) Pericardial effusion:
   -Platelet goal >75k per oncology, 332k today.
    4.) Ileus - improved today colonic dilation after rectal tube placed.
     -Will monitor with serial abd exams, daily KUB.
   -Full liquid diet as tolerated
      5.) HD:  Further chemo plans per oncology
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2144-08-06 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   # EKG - At [**2144-8-5**] 11:15 AM
   # EKG - At [**2144-8-5**] 03:13 PM
   repeat EKG done post restart of the amiodarone infusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-8-6**] 12:13 AM
   Cefipime - [**2144-8-6**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Feels "pretty good"
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2144-8-6**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 74 (74 - 160) bpm
   BP: 111/57(70) {98/57(37) - 133/103(107)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,409 mL
                                                                    604 mL
   PO:
                                                                  1,320 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,089 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                  1,440 mL
   Urine:
                                                                  1,360 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,049 mL
                                                                   -836 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, ulcerative
   lesions at right upper and central lower [**Location (un) 3369**] border
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, Tender: Diffusely to
   palpation.
   Extremities: Right: Lower extremity 2+ pitting edema, Left: Lower
   extremity 2+ pitting edema, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   349 K/uL
   10.4 g/dL
   91 mg/dL
   0.2 mg/dL
   35 mEq/L
   3.3 mEq/L
   5 mg/dL
   103 mEq/L
   141 mEq/L
   33.4 %
   17.4 K/uL
        [image002.jpg]
                             [**2144-8-2**]  05:40 AM
                             [**2144-8-3**]  04:19 AM
                             [**2144-8-3**]  09:07 AM
                             [**2144-8-3**]  03:55 PM
                             [**2144-8-3**]  07:19 PM
                             [**2144-8-4**]  04:00 AM
                             [**2144-8-4**]  08:39 AM
                             [**2144-8-4**]  05:16 PM
                             [**2144-8-5**]  05:12 AM
                             [**2144-8-6**]  04:41 AM
   WBC
   0.3
   3.8
   6.0
   5.7
   10.7
   13.9
   14.4
   17.4
   Hct
   26.4
   30.7
   33.6
   31.9
   31.7
   32.6
   32.4
   33.4
   Plt
   112
   190
   259
   [**Telephone/Fax (3) 3351**]
   332
   349
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   0.2
   0.2
   TCO2
   30
   31
   Glucose
   116
   127
   116
   73
   121
   108
   91
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: [**2144-8-4**] - Abdominal film - IMPRESSION: Persistent unchanged
   massively distended colon with no evidence for perforation or
   pneumatosis allowing for technique. Has the possibility of a volvulus
   been excluded in this patient?
   Microbiology:
   [**2144-8-1**] - Blood cx: Pending
   [**2144-8-3**] - Blood cx: Pending
   Assessment and Plan
   This is a 59F with mental retardation w/ recent dx of nodular
   sclerosing hodgkins lymphoma s/p modified EACOP, ileus,  now with
   febrile neutropenia and afib with RVR  in setting of GNR bacteremia.
   # Atrial fibrillation with RVR (paroxysmal):Overnight, pulse rate
   decrease appeared to correlate to dosing with 25 mg Metoprolol.
   - Continuation of Amiodarone IV load 0.5 mg/min for total of ~33 hours
   to reach goal of 1 gram.
   - Increased Metoprolo dose from 12.5 mg [**Hospital1 **] to 25 mg TID.
   - EKG Check EKG this AM to evaluate QT interval while on continued
   amiodarone. EKG comparison yesterday showed QTc of 405 both prior to
   and 6 hours after restarting amiodarone IV load.
   # Febrile neutropenia (s/p cytoxan, doxorubin, etoposide, dexamethasone
   and procarbazine (last [**7-29**])): Patient has been afebrile in last 24
   hours and no longer has neutropenia.
   - f/u CXR and repeat cultures
   -GNR in blood are susceptible to current antibiotic regimen. Continue
   Cefipime, Metronidazole, and Vancomycin.
   - Monitor PICC line
   # Ileus/abdominal distention: Exam is not significantly changed since
   yesterday AM.
   - Should continue bowel decompression by way of rectal tube.
   -Daily KUB and serial abdominal exams to evaluate for worsening
   distention and for perforation.
   -Replete lytes aggressively per sliding scale orders.
   # Hypoxia: Existed pre-admission and is likely related to tumor
   compression of pulmonary arteries and L main bronchus.  Has improved
   since admission. Patient now tolerating nasal cannula.
   - Monitor for improvement given treatment of Hodgkin's lymphoma
   - Dexamethasone dosing has been completed.
   - Wean O2 as tolerated.
   # Hemopericardium: ECHO shows residual, but improved hemopericardium.
   Likely not contributing significantly to current overall status.
   # Lymphoma: NSHL as per pathology from supraclavicular LN biopsy. Stage
   2b at least per Dr. [**First Name (STitle) 1422**].
   -s/p cytoxan, etoposide, doxarubacin and dex note.
   -will need ppx for PCP / HSV / VZV per BMT team
   -daily ANC
   - HSV labs are pending for lip ulcer. Should treat for HSV if test
   comes back positive.
   # Urine culture: [**7-31**] grew out yeast.
   # Anemia: Chronic, iron deficiency anemia. Now s/p chemo. Will continue
   to monitor.
   - Maintain Hct >25, plt >75 given hemopericardium
   # FEN: Liquid diet as neurologic status tolerates.
   # Proph: Bowel regimen, PPI, pneumoboots
   # CODE: DNR, may be intubated for procedures per family discussion.
   # ACCESS: peripheral; PICC
   # DISPO: ICU while abdominal process resolves.
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-08-06 10:02:00 Physician Attending Progress Note
Chief Complaint: Hodgkin's, Tamponade, Afib with RVR, Abdominal
   Distention.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   In and out of sinus with controlled VR. Now in Sinus
   24 Hour Events:
 EKG - At [**2144-8-5**] 11:15 AM
 EKG - At [**2144-8-5**] 03:13 PM
   repeat EKG done post restart of the amiodarone infusion.
   Abdom exam stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-8-6**] 04:00 AM
   Metronidazole - [**2144-8-6**] 08:06 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   nystatin, simethicone, RISS, colace, pantoprazole, metoprolol, senna,
   miralax, amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-6**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.2
   HR: 75 (68 - 155) bpm
   BP: 122/66(80) {98/57(37) - 133/103(107)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,409 mL
                                                                    998 mL
   PO:
                                                                  1,320 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,089 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                  1,660 mL
   Urine:
                                                                  1,360 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,049 mL
                                                                   -662 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   349 K/uL
   91 mg/dL
   0.2 mg/dL
   35 mEq/L
   3.3 mEq/L
   5 mg/dL
   103 mEq/L
   141 mEq/L
   33.4 %
   17.4 K/uL
        [image002.jpg]
                             [**2144-8-2**]  05:40 AM
                             [**2144-8-3**]  04:19 AM
                             [**2144-8-3**]  09:07 AM
                             [**2144-8-3**]  03:55 PM
                             [**2144-8-3**]  07:19 PM
                             [**2144-8-4**]  04:00 AM
                             [**2144-8-4**]  08:39 AM
                             [**2144-8-4**]  05:16 PM
                             [**2144-8-5**]  05:12 AM
                             [**2144-8-6**]  04:41 AM
   WBC
   0.3
   3.8
   6.0
   5.7
   10.7
   13.9
   14.4
   17.4
   Hct
   26.4
   30.7
   33.6
   31.9
   31.7
   32.6
   32.4
   33.4
   Plt
   112
   190
   259
   [**Telephone/Fax (3) 3351**]
   332
   349
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   0.2
   0.2
   TCO2
   30
   31
   Glucose
   116
   127
   116
   73
   121
   108
   91
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158 IU/L, Ca++:7.7
   mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: Colonic Dilatation
   Assessment and Plan
   59 yo F with MR, Hodgkin's Disease, and [**Hospital 3282**] transferred to the [**Hospital Unit Name 44**]
   with febrile neutropenia and AF with RVR.
   1.) AF with RVR: intermittently in sinus vs AF with controlled rate
   currently on IV amio and metoprolol
   -Continuing on IV amio load for now.  Will monitor QT. BB increased to
   QID yesterday.
   -Holding on anticoagulation given bloody nature of her pericardial
   effusion
   2.) ID -  Likely source is gut translocation.  Abdominal exam with
   improved distension over the last 2 days.  BCx with 1/4 GNR ecoli,
   enterobacter covered by Cefopime
    -continue cefepime/flagyl
    -Serial abdominal exams, though may be unrevealing given steroid
   regimen.  Low threshold for abd ct if change in hemodynamic perameters
   or clinical status given cx data.
   3.) Pericardial effusion:
     -Improved on recent TTE
   4.) Ileus - Exam improved after rectal tube placed but tube is
   currently out.  Will replace another.
    -Will monitor with serial abd exams.
   -ADAT
    5.) HD:  Further chemo plans per oncology
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2144-08-07 07:05:00 Physician Resident Progress Note
Chief Complaint: Abdominal distention and paroxysmal Afib with RVR
   24 Hour Events:
   # NSR rate < 80 for last 24 hours.
   # On acyclovir for treatment of HSV lesion on lip
   # RUE U/S to be completed this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-8-6**] 11:25 PM
   Cefipime - [**2144-8-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-8-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient reports feeling
Pretty good
   Abdomen: Complains of pain diffusely. Positive flatus.
   Flowsheet Data as of  [**2144-8-7**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 76 (65 - 80) bpm
   BP: 112/59(72) {95/45(54) - 131/82(94)} mmHg
   RR: 24 (9 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,906 mL
                                                                    199 mL
   PO:
                                                                    930 mL
             TF:
   IVF:
                                                                    976 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  3,380 mL
                                                                  1,345 mL
   Urine:
                                                                  3,380 mL
                                                                  1,345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,474 mL
                                                                 -1,146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///36/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, ulcerative
   lesions at right upper and central lower [**Location (un) 3369**] border
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended (less that yesterday),
   Tender: Diffusely to palpation. Tympanitic to percussion.
   Extremities: Right: Lower extremity 2+ pitting edema, Left: Lower
   extremity 2+ pitting edema, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   293 K/uL
   10.3 g/dL
   91 mg/dL
   0.2 mg/dL
   36 mEq/L
   3.2 mEq/L
   3 mg/dL
   102 mEq/L
   141 mEq/L
   32.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2144-8-3**]  09:07 AM
                             [**2144-8-3**]  03:55 PM
                             [**2144-8-3**]  07:19 PM
                             [**2144-8-4**]  04:00 AM
                             [**2144-8-4**]  08:39 AM
                             [**2144-8-4**]  05:16 PM
                             [**2144-8-5**]  05:12 AM
                             [**2144-8-6**]  04:41 AM
                             [**2144-8-6**]  03:16 PM
                             [**2144-8-7**]  04:22 AM
   WBC
   6.0
   5.7
   10.7
   13.9
   14.4
   17.4
   13.7
   Hct
   33.6
   31.9
   31.7
   32.6
   32.4
   33.4
   32.7
   Plt
   259
   242
   258
   296
   332
   349
   293
   Cr
   0.2
   0.3
   0.3
   0.2
   0.2
   0.2
   0.2
   TCO2
   30
   31
   Glucose
   116
   73
   121
   108
   91
   128
   91
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   Differential-Neuts:78.0 %, Band:6.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Microbiology:
   [**2144-8-6**]
   Direct Antigen Test for Herpes Simplex Virus Types 1 & 2
   Lip lesion is POSitive for HSV
   [**2144-8-3**]
   STOOL
 Negative for c. diff toxin
   Final
   [**2144-8-3**]
   BLOOD CULTURE
   Pending
   [**2144-8-3**]
   BLOOD CULTURE
   Pending
   [**2144-8-1**]
   BLOOD CULTURE
   Pending
   [**2144-8-1**]
   BLOOD CULTURE
   Pending
   Assessment and Plan
   This is a 59F with mental retardation w/ recent dx of nodular
   sclerosing hodgkins lymphoma s/p modified EACOP, ileus,  now with
   febrile neutropenia and afib with RVR  in setting of GNR bacteremia.
   # Atrial fibrillation with RVR (paroxysmal): NSR with pulse less that
   80 bpm for last 24 hours. Doing well on current regimen.
   - Amiodarone IV load has completed. Now starting PO amiodarone
   maintenance. Will have 400 mg amiodarone [**Hospital1 **] ending with AM dose on
   [**2144-8-13**] (7 total days).
   - Continue Metoprolol 25 mg QID.
   - EKGs yesterday showed NSR with QTc of 415. This QTc is not
   significantly changed from baseline. Continue to monitor EKGs
   periodically while giving amiodarone.
   - Cardiology has signed off. We will call if any additional issues
   present.
   # Febrile neutropenia (s/p cytoxan, doxorubin, etoposide, dexamethasone
   and procarbazine (last [**7-29**])): Fever and neutropenia appear resolved at
   this time.
   - F/U cultures, which are NGTD at this time.
   -GNR in blood are susceptible to current antibiotic regimen. Continue
   Cefipime, Metronidazole, and Vancomycin.
   - Monitor PICC line.
   # Ileus/abdominal distention: Physical exam is marginally improved
   since yesterday AM.
   - Patient is passing large bowel movements and large amounts of flatus
   without rectal tube. Will follow her by exam and discontinue daily KUB.
   Should get KUB again if exam changes or patient reports additional
   discomfort.
   -Replete lytes aggressively per sliding scale orders.
   # Hypoxia: Existed pre-admission and is likely related to tumor
   compression of pulmonary arteries and L main bronchus.  Has improved
   since admission. Patient now tolerating nasal cannula.
   - Monitor for improvement given treatment of Hodgkin's lymphoma
   - Dexamethasone dosing has been completed.
   - Wean O2 as tolerated.
   # Hemopericardium: ECHO shows residual, but improved hemopericardium.
   Likely not contributing significantly to current overall status.
   # Lymphoma: NSHL as per pathology from supraclavicular LN biopsy. Stage
   2b at least per Dr. [**First Name (STitle) 1422**].
   -s/p cytoxan, etoposide, doxarubacin and dex note.
   -will need ppx for PCP / HSV / VZV per BMT team
   - HSV labs reveal lip ulcer is due to HSV. Now treating Acyclovir 400
   mg [**Hospital1 **] for 10 days before switching to prophylactic regimen.
   # Anemia: Chronic, iron deficiency anemia. Now s/p chemo. Will continue
   to monitor.
   - Maintain Hct >25, plt >75 given history of hemopericardium
   # FEN: Doing well now on regular diet. Will continue with that as neuro
   status allows..
   # Proph: Bowel regimen, PPI, pneumoboots, Heaparin sub-cutaneous
   # CODE: DNR, may be intubated for procedures per family discussion.
   # ACCESS: peripheral; PICC
   # DISPO: [**Month (only) 60**] be called out to floor now that Amiodarone IV load has
   completed.
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Comments: Regular, low-sodium diet
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Under  the
Febrile neutropenia
 A and P bullet heading, please note
   that Vancomycin has been discontinued as of [**2144-8-2**] and is no longer
   indicated for this patient. Cefepime and Metronidazole should be
   continued as indicated.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3382**], MD
   on:[**2144-8-7**] 10:35 ------

2144-08-07 10:30:00 Physician Attending Progress Note
Chief Complaint: AF with RVR and febrile neutropenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained in sinus overnight off amio drip.
   Started on acyclovir po for lip lesion.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-8-6**] 11:25 PM
   Cefipime - [**2144-8-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-8-6**] 10:00 PM
   Other medications:
   nystatin s&s, simethicone, RISS, colace, pantoprazole, miralax, senna,
   metoprolol, hep SQ, acyclovir, amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2144-8-7**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 74 (65 - 80) bpm
   BP: 127/65(80) {95/45(54) - 131/82(94)} mmHg
   RR: 25 (9 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,906 mL
                                                                    493 mL
   PO:
                                                                    930 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    976 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  3,380 mL
                                                                  1,625 mL
   Urine:
                                                                  3,380 mL
                                                                  1,625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,474 mL
                                                                 -1,132 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3L
   SpO2: 99%
   ABG: ///36/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Distended, Obese
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   293 K/uL
   91 mg/dL
   0.2 mg/dL
   36 mEq/L
   3.2 mEq/L
   3 mg/dL
   102 mEq/L
   141 mEq/L
   32.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2144-8-3**]  09:07 AM
                             [**2144-8-3**]  03:55 PM
                             [**2144-8-3**]  07:19 PM
                             [**2144-8-4**]  04:00 AM
                             [**2144-8-4**]  08:39 AM
                             [**2144-8-4**]  05:16 PM
                             [**2144-8-5**]  05:12 AM
                             [**2144-8-6**]  04:41 AM
                             [**2144-8-6**]  03:16 PM
                             [**2144-8-7**]  04:22 AM
   WBC
   6.0
   5.7
   10.7
   13.9
   14.4
   17.4
   13.7
   Hct
   33.6
   31.9
   31.7
   32.6
   32.4
   33.4
   32.7
   Plt
   259
   242
   258
   296
   332
   349
   293
   Cr
   0.2
   0.3
   0.3
   0.2
   0.2
   0.2
   0.2
   TCO2
   30
   31
   Glucose
   116
   73
   121
   108
   91
   128
   91
   Other labs: PT / PTT / INR:15.2/24.6/1.3, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:26/7, Alk Phos / T Bili:128/0.8,
   Differential-Neuts:78.0 %, Band:6.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:158
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   59 yo F with MR, Hodgkin's Disease, and [**Hospital 3282**] transferred to the [**Hospital Unit Name 44**]
   with febrile neutropenia and AF with RVR.
   1) AF with RVR: intermittently in sinus vs AF with controlled rate
   currently on IV amio and metoprolol
   -Will monitor QT.
   -Holding on anticoagulation given bloody nature of her pericardial
   effusion
   2) ID -  Likely source is gut translocation.  Abdominal exam with less
   distension over the last 3 days.  BCx with 1/4 GNR ecoli, enterobacter
   covered by Cefopime
    -continue cefepime/flagyl
    -Serial abdominal exams improving.
   3) Pericardial effusion:
     -Improved on recent TTE
   4) Ileus - Exam improved after rectal tube placed. -Will monitor with
   serial abd exams.
   5)  ADAT
   6) HD:  Further chemo plans per oncology
   7) Okay for transfer to BMT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-31**] 03:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 30 minutes